US07157487B2
To 1-methylindazole-3-carboxylic acid (600 mg, 3.41 mmol) and DMF (27.0 μl, 0.34 mmol) was added methylene chloride (20 ml). Under stirring at room temperature, oxalyl chloride (0.36 ml, 4.09 mmol) was added dropwise to the resulting mixture. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 50 hours and the solvent was distilled off under reduced pressure. The residue was dissolved in methylene chloride (5 ml). The resulting solution was added to a solution of methyl 4-amino-3-chlorophenylacetate (680 mg, 3.41 mmol) and triethylamine (1.42 ml, 10.2 mmol) in methylene chloride (5 ml) under stirring at room temperature. The reaction mixture was heated under reflux at room temperature for 7 hours. After the reaction mixture was cooled to room temperature, water was added thereto, followed by extraction with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane-ethyl acetate (2:1, v/v) eluate fractions, methyl (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetate (1.08 g, 89%) was obtained as a yellow solid.

reactant | 1-methylindazole-3-carboxylic acid | 3.41 mmol, 600 mg | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
reactant | DMF | 0.34 mmol, 27.0 μl | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 4.09 mmol, 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-amino-3-chlorophenylacetate | 3.41 mmol, 680 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | triethylamine | 10.2 mmol, 1.42 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl (3-chloro-4-((1-methyl-3-indazolylcarbonyl)amino)phenyl)acetate | 1.08 g, 89% | ClC=1C=C(C=CC1NC(=O)C1=NN(C2=CC=CC=C12)C)CC(=O)OC | C18H16ClN3O3
